US09428515B2
1-Isopropyl-3,3-dimethyl-5-nitro-6-((S)-1-phenyl-ethylamino)-1,3-dihydro-indol-2-one E-1.2′
6-Fluoro-1-isopropyl-3,3-dimethyl-5-nitro-1,3-dihydro-indol-2-one E-1.2″ (4.5 g; 16.5 mmol) is dissolved in NMP (20 ml), DIPEA (4.0 ml; 22.3 mmol) and (S)-1-Phenyl-ethylamine (2.65 ml; 20.1 mmol) is added at 20° C. The reaction mixture is stirred for 3 h at 50° C. The reaction mixture is poured into water and extracted with DCM. The combined organic layer is dried over MgSO4 and concentrated under reduced pressure. The crude compound was purified by column chromatography using silica gel (50 μM) with eluting mixture of ethyl acetate and cyclohexane.

reactant | 6-Fluoro-1-isopropyl-3,3-dimethyl-5-nitro-1,3-dihydro-indol-2-one | FC1=C(C=C2C(C(N(C2=C1)C(C)C)=O)(C)C)[N+](=O)[O-] | C13H15FN2O3
reactant | DIPEA | 22.3 mmol, 4.0 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-1-Phenyl-ethylamine | 20.1 mmol, 2.65 ml | C1(=CC=CC=C1)[C@H](C)N | C8H11N
reactant | water | O | H2O
solvent | NMP | 20 ml | CN1CCCC1=O | C5H9NO
product | 1-Isopropyl-3,3-dimethyl-5-nitro-6-((S)-1-phenyl-ethylamino)-1,3-dihydro-indol-2-one | C(C)(C)N1C(C(C2=CC(=C(C=C12)N[C@@H](C)C1=CC=CC=C1)[N+](=O)[O-])(C)C)=O | C21H25N3O3
